*SPICE model for HSCH-9401
*
.SUBCKT HSCH9401  1  2
* DIODE MODEL
D1 1 2 DMOD1
* PARASITIC BOND PAD CAPACITANCE
C1 1 2 .011P
.MODEL DMOD1 D IS=500U RS=7 CJO=1F EG=1.42 N=1.2 PB=.65 BV=8 IBV=1E-5
.ENDS

